US05216142
o-GLA-ACV, ("AK 5")
Acyclovir (ACV, 0.5 g, 2.22 mmol, used as a dry white powder) was suspended in anhydrous pyridine (10 ml) and to the mixture stirred under dry nitrogen was added GLA acid chloride (0.788 g, 2.664 mmol). The reaction mixture was stirred overnight at room temperature after which period TLC indicated conversion to the required product. The pyridine was removed in vacuo and the residual syrup was dissolved in chloroform. This was introduced into a column of silica gel (30 g) pre-equilibrated in chloroform:ethanol (30:1, v:v). Elution with chloroform followed by chloroform:ethanol (30:1), (20:1) and finally (15:1), gave the required product, AK-5, as a TLC homogeneous semisolid. Yield, 48% (0.517 g, 1.065 mmol).

reactant | Acyclovir | C1=NC2=C(N1COCCO)N=C(N=C2O)N | C8H11N5O3
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | o-GLA-ACV | CCCCC/C=C\C/C=C\C/C=C\CCCCC(=O)OCCOCN1C=NC2=C1NC(=NC2=O)N | C26H39N5O4
